US07642264B2
A stirred mixture of 3′-[4-trifluoromethyl-6-(4-trifluoromethyl-phenyl)-pyrimidin-2-yl]-biphenyl-3-sulfonic acid 2,2-dimethyl-propyl ester (1.42 g, 2.39 mmol), 2M sodium propanolate solution (3 ml, 6 mmol), 2-(diethylamino)-ethanethiol (0.37 g, 2.75 mmol) and dioxane (15 ml) was heated under reflux conditions for 24 h and evaporated. Water (40 ml) was added and the mixture was extracted with ethyl acetate (2×50 ml). The combined organic layers were washed with water (50 ml). The water layers were combined, acidified with 2N HCl and extracted with ethyl acetate (2×50 ml). The latter two organic layers were combined, washed with brine (50 ml), dried (MgSO4) and evaporated to yield the crude 3′-[4-trifluoromethyl-6-(4-trifluoromethyl-phenyl)-pyrimidin-2-yl]-biphenyl-3-sulfonic acid as a brown solid (0.91 g, 51%). Thionyl chloride (20 ml) and DMF (4 drops) were added and the stirred mixture was heated under reflux conditions for 4 h, evaporated and purified by flash chromatography on silica gel (ethyl acetate/heptane) to yield the title compound as a light brown solid (0.43 g, 33%). MS (ISP) 542.2 [(M)+]; mp 176° C.

reactant | 3′-[4-trifluoromethyl-6-(4-trifluoromethyl-phenyl)-pyrimidin-2-yl]-biphenyl-3-sulfonic acid 2,2-dimethyl-propyl ester | 2.39 mmol, 1.42 g | CC(COS(=O)(=O)C=1C=C(C=CC1)C1=CC(=CC=C1)C1=NC(=CC(=N1)C(F)(F)F)C1=CC=C(C=C1)C(F)(F)F)(C)C | C29H24F6N2O3S
reactant | sodium propanolate | 6 mmol, 2M, 3 ml | C(CC)[O-].[Na+]
reactant | 2-(diethylamino)-ethanethiol | 2.75 mmol, 0.37 g | C(C)N(CCS)CC | C6H15NS
solvent | dioxane | 15 ml | O1CCOCC1 | C4H8O2
product | 3′-[4-trifluoromethyl-6-(4-trifluoromethyl-phenyl)-pyrimidin-2-yl]-biphenyl-3-sulfonic acid | 0.91 g, 51% | FC(C1=NC(=NC(=C1)C1=CC=C(C=C1)C(F)(F)F)C=1C=C(C=CC1)C1=CC(=CC=C1)S(=O)(=O)O)(F)F | C24H14F6N2O3S
